US04125729
Methyl α-(p-fluorophenoxy)-α-[p-(p-chlorophenylthio)phenyl]acetate
To a solution of 2.8 g of p-fluorophenol, 1.19 g of sodium methoxide and 50 mg of potassium iodide in 40 ml of methanol was added 7.43 g of methyl α-bromo-α-[p-(p-chlorophenylthio)phenyl]acetate in 10 ml of benzene. The mixture was refluxed overnight and then cooled to room temperature. The mixture was poured into 100 ml of water and extracted with 2 × 75 ml of ether. The combined extracts were washed with 50 ml of 5% NaOH, 50 ml water, saturated brine, and dried (MgSO4). Evaporation of the solvent at reduced pressure afforded an amber oil, which was chromatographed on 100 g of silica gel (benzene). Concentration of the eluate yielded an amber oil which crystallized on trituration with 100 ml of petroleum ether, mp 84.5°-86.5° C (weight 6.05 g). Recrystallization from 50 ml of hexane yielded 5.3 g of a white solid, mp 84.5°-87° C.

reactant | p-fluorophenol | 2.8 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | sodium methoxide | 1.19 g | C[O-].[Na+]
reactant | methyl α-bromo-α-[p-(p-chlorophenylthio)phenyl]acetate | 7.43 g | BrC(C(=O)OC)C1=CC=C(C=C1)SC1=CC=C(C=C1)Cl | C15H12BrClO2S
reactant | water | 100 ml | O | H2O
solvent | methanol | 40 ml | CO | CH4O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
catalyst | potassium iodide | 50 mg | [I-].[K+]
product | Methyl α-(p-fluorophenoxy)-α-[p-(p-chlorophenylthio)phenyl]acetate | 5.3 g | FC1=CC=C(OC(C(=O)OC)C2=CC=C(C=C2)SC2=CC=C(C=C2)Cl)C=C1 | C21H16ClFO3S
